US20010052156A1
1.3.2. Preparation of N-(4-Nitro-3-Aminophenyl)Morpholine
Step b) was carried out in the same way as Example 1.3.1. step b) by reacting N-(4-nitro-3-acetaminophenyl)morpholine with hydrochloric acid.

reactant | N-(4-nitro-3-acetaminophenyl)morpholine | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCOCC1)NC(=O)C | C12H15N3O4
reactant | hydrochloric acid | Cl | ClH
product | N-(4-Nitro-3-Aminophenyl)Morpholine | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCOCC1)N | C10H13N3O3
